US07262185B2
To a solution of aluminum lithium hydride (1.57 g) in THF (140 ml) was added dropwise methyl 2-propyl-1,2,3-triazole-4-carboxylate (7.0 g) in. THF (70 ml) at 0° C. The mixture was stirred for 1 hour at room temperature, and an aqueous solution of saturated sodium thiosulfate was added to the mixture at 0° C. The mixture was filtered with Celite, and washed with ethanol. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-hydroxymethyl-2-propyl-1,2,3-triazole (5.9 g). To 4-hydroxymethyl-2-propyl-1,2,3-triazole (4.0 g), thionyl chloride (32 ml) was added to the mixture at 0° C., and the mixture was heated to reflux for 1 hour. After allowing the mixture to be cooled to room temperature, the solvent was removed under reduced pressure, to give 4-chloromethyl-2-propyl-1,2,3-triazole (4.2 g).

reactant | 4-hydroxymethyl-2-propyl-1,2,3-triazole | 4.0 g | OCC1=NN(N=C1)CCC | C6H11N3O
reactant | thionyl chloride | 32 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloromethyl-2-propyl-1,2,3-triazole | 4.2 g | ClCC1=NN(N=C1)CCC | C6H10ClN3
